US05362878
N-(Imidazo[1,2-a]pyridin-3-yl)-2-(4-(1-methylpropyl)phenoxy)nonanoic amide
3-Aminoimidazo[1,2-a]pyridine, synthesized by reduction of the corresponding nitro compound according to Example 31, was coupled with 2-(4-(1-methylpropyl)- phenoxynonanoic acid according to the procedure of Example 25 to give the title compound.

reactant | 3-Aminoimidazo[1,2-a]pyridine | NC1=CN=C2N1C=CC=C2 | C7H7N3
reactant | 4-(1-methylpropyl)- phenoxynonanoic acid | CC(CC)C1=CC=C(OC(C(=O)O)CCCCCCC)C=C1 | C19H30O3
product | N-(Imidazo[1,2-a]pyridin-3-yl)-2-(4-(1-methylpropyl)phenoxy)nonanoic amide | N=1C=C(N2C1C=CC=C2)NC(C(CCCCCCC)OC2=CC=C(C=C2)C(CC)C)=O | C26H35N3O2
